US05175166
1-Triphenylmethyl-5(3-hydroxy-1,2,5-thiadiazol-4-yl)-1,4,5,6-tetrahydropyrimidine
N-Thionylaniline (2.6 mL, 23.2 mmol) is added to amino(1-triphenylmethyl-1,4,5,6-tetrahydropyrimidin-5-yl)acetamide (1.64 g, 4.1 mmol) suspended in pyridine (25 ml). After heating at 90° C. for 48 hours the pyridine is evaporated, and the black residue partitioned between chloroform and water. The aqueous layer is lowered to pH 5 (HCl) and chromatographed (Dowex-50 W, 0.5 N ammonium hydroxide) to yield the product as a brown solid 1.05 g (61%) that can be further purified by chromatography (silica, methanol) and converted to a white crystalline hydrochloride salt, ms m/z=426.

reactant | N-Thionylaniline | 23.2 mmol, 2.6 mL | S(=O)=NC1=CC=CC=C1 | C6H5NOS
reactant | amino(1-triphenylmethyl-1,4,5,6-tetrahydropyrimidin-5-yl)acetamide | 4.1 mmol, 1.64 g | NC(C(=O)N)C1CN=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26N4O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-Triphenylmethyl-5(3-hydroxy-1,2,5-thiadiazol-4-yl)-1,4,5,6-tetrahydropyrimidine | 1.05 g, 61% | C1(=CC=CC=C1)C(N1C=NCC(C1)C=1C(=NSN1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N4OS
